US07767860B2
(R)-2-(N-Phenyl-aminooxy)-butan-1-ol:
At about −20° C., L-proline (4 g, 34.8 mmol) was added to solution of n-butyraldehyde (25 mL, 278 mmol) and nitrosobenzene (15 g, 140 mmol) in acetonitrile (300 mL). The mixture was stirred at about −20° C. for about 48 hours, methanol (50 mL) and sodium borohydride (16 g, 432 mmol) were added, the mixture was stirred for about 10 minutes, and phosphate buffer was added. Following standard extractive workup with ethyl acetate, the crude product was purified by column chromatography with silica gel (petroleum ether-ethyl acetate =5:1, v:v, elution) to afford the title product (10.8 g, 43%). 1H NMR (300 MHz, CDCl3) δ 7.30-7.25 (m, 2H), 7.01-6.96 (m, 3H), 3.90-3.74 (m, 3H), 1.75-1.57 (m, 2H), 1.02 (t, J=7.8 Hz, 3H); LC-MS: m/z=182 (M+H)+.

reactant | L-proline | 34.8 mmol, 4 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | n-butyraldehyde | 278 mmol, 25 mL | C(CCC)=O | C4H8O
reactant | nitrosobenzene | 140 mmol, 15 g | N(=O)C1=CC=CC=C1 | C6H5NO
reactant | sodium borohydride | 432 mmol, 16 g | [BH4-].[Na+]
reactant | phosphate | P(=O)([O-])([O-])[O-]
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 mL | CO | CH4O
product | (R)-2-(N-Phenyl-aminooxy)-butan-1-ol | 10.8 g, 43% | C1(=CC=CC=C1)NO[C@@H](CO)CC | C10H15NO2
